US07795249B2
HCl (0.16 mL, 5.4 mmol) was added to a solution of tert-butyl [2-(5-{[5-(2-hydroxyphenyl)-3-pyrazin-2-yl-4,5-dihydro-1H-pyrazol-1-yl]carbonyl}-2-thienyl)benzyl]carbamate (0.030 g, 0.054 mmol) in MeOH (1 mL) over the course of 3 h at rt. A white precipitate formed and was filtered and dried under vacuum to give 2-[1-({5-[2-(aminomethyl)phenyl]-2-thienyl}carbonyl)-3-pyrazin-2-yl-4,5-dihydro-1H-pyrazol-5-yl]phenol (I-205), (25 mg). LCMS: (FA) ES+ 456.1.

reactant | HCl | 5.4 mmol, 0.16 mL | Cl | ClH
reactant | tert-butyl [2-(5-{[5-(2-hydroxyphenyl)-3-pyrazin-2-yl-4,5-dihydro-1H-pyrazol-1-yl]carbonyl}-2-thienyl)benzyl]carbamate | 0.054 mmol, 0.030 g | OC1=C(C=CC=C1)C1CC(=NN1C(=O)C1=CC=C(S1)C1=C(CNC(OC(C)(C)C)=O)C=CC=C1)C1=NC=CN=C1 | C30H29N5O4S
solvent | MeOH | 1 mL | CO | CH4O
product | 2-[1-({5-[2-(aminomethyl)phenyl]-2-thienyl}carbonyl)-3-pyrazin-2-yl-4,5-dihydro-1H-pyrazol-5-yl]phenol | NCC1=C(C=CC=C1)C1=CC=C(S1)C(=O)N1N=C(CC1C1=C(C=CC=C1)O)C1=NC=CN=C1 | C25H21N5O2S
